Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Prilosec / Bactrim Ds / Percocet / Sulfonamides / Vitamin D / 
Nifedipine / Atrovent Hfa / Maxair Autohaler
 
Attending: ___
 
Chief Complaint:
Post-menopausal bleeding
Thickened endometrium
 
Major Surgical or Invasive Procedure:
Operative laparoscopy with conversion to exploratory laparotomy, 
total abdominal hysterectomy, bilateral salpingoophorectomy, 
pelvic washings, proctosigmoidoscopy, cystoscopy

 
History of Present Illness:
___ returns today for a followup visit.  She is a ___ 
woman with postmenopausal bleeding and a thickened endometrium 
on imaging studies.  She recently underwent an attempted 
hysteroscopy and D&C.  She has had previous surgeries to the 
cervix, cold knife cone biopsy, and the scarring was so dense 
that we were unable to safely enter the endometrial cavity. She 
suffered no consequences of the surgery.  She denies any vaginal 
bleeding or discharge.  She denies any gastrointestinal 
complaints or concerns.

 
Past Medical History:
Past Medical History:  
1. Atrial fibrillation on Dofetilide since ___. Asthma/COPD, with last FEV 1 0.91L (51%) on ___
3. Hypertension
4. H/o CHF/cardiomyopathy with EF 20%, spontaneously resolved. 
EF 50-60% on ___
5. Possible amiodarone-induced lung toxicity
6. h/o breast cancer, s/p lumpectomy, chemo and XRT in ___
7. Osteopenia
8. h/o lung nodules
9. h/o trigeminal neuralgia 
10. h/o migraine headaches, usually right-sided, retroorbital.

Past Surgical History:  Lumpectomy in ___.  She also had a
laparoscopic cholecystectomy.

Ob/Gyn History:  She is gravida 4, para 2.  She denies any
history of pelvic infections or abnormal Pap smears beyond those
that led to her LEEP excision in the past.  Since that time, she
has not had any problems.  She has been postmenopausal for ___
years.

 
Social History:
___
Family History:
Per OMR records, sister with MI in ___. Family history of CAD 
and valvular disease. She reports her father had lung cancer.  
She reports she has 2 brothers with prostate cancer.

 
Physical Exam:
Physical Exam:  She appears her stated age, in no apparent 
distress.  HEENT:  Normocephalic, atraumatic.  Oral mucosa 
without evidence of thrush or mucositis.  Eyes, sclerae are 
anicteric.  Neck:  Supple, no masses, no thyromegaly.  Lymph 
node survey:  Negative cervical, supraclavicular, axillary, or 
inguinal adenopathy appreciated.  Chest:  Lungs clear 
bilaterally.  There are no wheezes.  Heart:  Slightly 
tachycardic with an irregular rhythm consistent with Afib.  
Abdomen:  Soft, nontender, nondistended.  There are no palpable 
masses.  Extremities:  There is no clubbing, cyanosis, or edema. 
 There is no calf tenderness to palpation.  Pelvic exam reveals 
normal external genitalia.  The inner labia minora is normal.  
The urethral meatus is normal.  Speculum was placed.  The walls 
of the vagina are smooth.  At the apex of vaginal canal, there 
is no visible cervix identified.  There is a slight dimple which 
appears to be the endocervical canal, what is left of it.  
Bimanual exam revealed a mobile anteverted uterus without 
palpable adnexal mass.  Rectal exam reveals hemorrhoid that is 
everted, but no palpable mass or lesion.  There is no evidence 
of cul-de-sac nodularity.

 
Pertinent Results:
IMAGING:
___ KUB:

LABS:
___ 06:50PM BLOOD WBC-12.8* RBC-3.91* Hgb-11.5* Hct-32.7* 
MCV-84 MCH-29.3 MCHC-35.0 RDW-13.1 Plt ___
___ 07:55AM BLOOD WBC-11.6* RBC-4.07* Hgb-11.9* Hct-34.2* 
MCV-84 MCH-29.1 MCHC-34.6 RDW-12.9 Plt ___
___ 11:26PM BLOOD WBC-12.8* RBC-3.76* Hgb-11.3* Hct-30.9* 
MCV-82 MCH-30.2 MCHC-36.7* RDW-13.7 Plt ___
___ 07:00AM BLOOD WBC-8.2 RBC-3.73* Hgb-10.9* Hct-31.6* 
MCV-85 MCH-29.1 MCHC-34.3 RDW-13.6 Plt ___
___ 07:00AM BLOOD ___ PTT-29.6 ___
___ 07:55AM BLOOD ___ PTT-31.5 ___
___ 06:50PM BLOOD Glucose-107* UreaN-7 Creat-0.7 Na-130* 
K-3.2* Cl-95* HCO3-26 AnGap-12
___ 07:45AM BLOOD Glucose-77 UreaN-6 Creat-0.7 Na-135 K-4.0 
Cl-98 HCO3-26 AnGap-15
___ 07:55AM BLOOD Glucose-99 UreaN-12 Creat-0.9 Na-132* 
K-3.4 Cl-93* HCO3-30 AnGap-12
___ 01:00PM BLOOD Glucose-153* UreaN-20 Creat-1.3* Na-129* 
K-4.3 Cl-89* HCO3-25 AnGap-19
___ 11:26PM BLOOD Glucose-142* UreaN-16 Creat-0.9 Na-129* 
K-4.4 Cl-97 HCO3-25 AnGap-11
___ 06:10AM BLOOD Glucose-123* UreaN-15 Creat-0.8 Na-132* 
K-4.1 Cl-100 HCO3-25 AnGap-11
___ 07:00AM BLOOD Glucose-111* UreaN-6 Creat-0.8 Na-139 
K-3.4 Cl-105 HCO3-25 AnGap-12
___ 07:55AM BLOOD Glucose-126* UreaN-12 Creat-0.7 Na-139 
K-3.9 Cl-106 HCO3-25 AnGap-12
___ 07:55AM BLOOD CK-MB-2 cTropnT-PND
___ 06:50PM BLOOD Calcium-8.4 Phos-2.2* Mg-1.6
___ 07:45AM BLOOD Calcium-8.7 Phos-3.9# Mg-1.8
___ 07:55AM BLOOD Calcium-9.0 Phos-2.9 Mg-2.3
___ 01:00PM BLOOD Calcium-9.7 Phos-3.6 Mg-2.2
___ 11:26PM BLOOD Calcium-8.4 Phos-2.9 Mg-1.8
___ 06:10AM BLOOD Calcium-8.1* Phos-2.9 Mg-1.8
___ 07:00AM BLOOD Calcium-8.3* Phos-2.9 Mg-2.1
___ 07:55AM BLOOD Calcium-7.9* Phos-2.7 Mg-2.0
 
Brief Hospital Course:
MS. ___ is a ___ woman with postmenopausal bleeding 
and a thickened endometrium seen on imaging studies, now s/p 
laparoscopy converted to an exploratory laparotomy, total 
abdominal hysterectomy, bilateral salpingo-oophorectomy, pelvic 
washings, proctosigmoidoscopy, and cystoscopy (see operative 
note for details).

Her post-operative course has been complicated by the following 
issues:

*) Cardiac: The patient has a history of atrial fibrillation.  
On POD#1 she experienced an episode of atrial fibrillation.  She 
converted to normal sinus rhythm with 5mg IV Lopressor.  
Cardiology was curb sided and recommended started PO Lopressor 
25mg TID.  On POD#3, patient's Coumadin was re-started. On 
POD#7, her Coumadin was stopped secondary to a prolonged ileus 
and concern for rising INRs. On POD#7, the patient complained of 
chest pain.  An EKG, reviewed by cardiology, revealed no acute 
changes.  Cardiac enzymes were negative x 3. Her chest 
discomfort was treated with Protonix IV.  On POD#9 she had 
approximately ___ beats of VTach on telemetry with spontaneous 
resolution to normal sinus rhythm.  Electrolytes were obtained 
and repleted, EKG demonstrated normal sinus rhythm, and cardiac 
enzymes were negative x1.  Medicine was consulted and per their 
recommendations, her Coumadin was restarted on POD#11 at 3mg 
qhs. She remained on telemetry for the remainder of her 
hospitalization with no additional episodes.

*) GI:  The patient developed a post-operative ileus on POD#4.  
She initially presented with abdominal distention and nausea.  
An abdominal x-ray demonstrated multiple dilated loops of bowel 
and air fluid levels.  She remained NPO with IV fluids until POD 
#7, at which time her diet was slowly advanced.  Her 
electrolytes were checked daily and repleted accordingly.  She 
was able to tolerate a regular diet on her day of discharge 
without difficulty.   Additionally, on POD#10, the patient 
developed watery diarrhea.  C.diff culture was negative.  Her 
watery diarrhea resolved by her day of discharge. 

*) GU:  Intra-operatively, it was noted that the patient 
underwent an extensive lysis of adhesions around the bladder.  
Post-operatively, she failed two voiding trials, therefore her 
foley was left in place and the patient was placed on Macrobid 
for UTI prophylaxis.  She was discharged home with a Foley 
catheter in place.  She will follow up in ___ 
to have her Foley removed.

*) HTN: The patient's blood pressure remained within normal 
limits throughout her hospitalization.  She remained on her home 
medications.

*)Asthma: The patient's asthma remained well controlled 
throughout her hospitaliztion.  She remained on her home 
medications.

The patient's pain remained well controlled throughout her 
hospitalization.  She was able to tolerate a regular diet and 
ambulate without difficulty on her day of discharge.  

The patient was discharged home on POD#13 in stable condition.
 
Medications on Admission:
Albuterol, clonazepam, diltiazem, Fiorinal, lisinopril, Micro-K, 
Protonix, warfarin, Azmacort.

 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed.
Disp:*50 Capsule(s)* Refills:*0*
2. Albuterol 90 mcg/Actuation Aerosol Sig: ___ Puffs Inhalation 
Q4H (every 4 hours) as needed.  
3. Diltiazem HCl 180 mg Capsule, Sustained Release Sig: Two (2) 
Capsule, Sustained Release PO DAILY (Daily).  
4. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
5. Disopyramide 150 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
6. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
7. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
8. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
9. Azmacort 75 mcg/Actuation Aerosol Sig: Two (2)  Inhalation 
three times a day.  
10. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day).
Disp:*30 Tablet(s)* Refills:*0*
11. Warfarin 3 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*10 Tablet(s)* Refills:*0*
12. Nitrofurantoin (Macrocryst25%) 100 mg Capsule Sig: One (1) 
Capsule PO DAILY (Daily).
Disp:*10 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Postmenopausal bleeding from endometrial polyp and uterine 
fibroid
Post-operative Ileus
Atrial fibrillation
Hypertension
Asthma

 
Discharge Condition:
Stable

 
Discharge Instructions:
Please call if you have fevers, nausea or vomiting, increased 
abdominal pain, increased vaginal bleeding, difficulty with 
urination, redness or drainage from the incision, or any other 
concerning symptoms.

No driving x 2 weeks or while taking narcotics.
No heavy lifting x 6 weeks
Nothing in the vagina x 6 weeks

Re-start all your home medications.
 
Followup Instructions:
___